US04003914
13.2 g of 2-(3,4-dimethoxyphenyl)-m-dithiane-2-proprionic acid, 4 g of triethylamine and 180 ml of tetrahydrofuran are cooled to 0° C and treated dropwise within 10 minutes with 5.44 g of chloroformic acid isobutyl ester in 80 ml of tetrahydrofuran. The mixture is then held at room temperature for 3 hours and treated at 0° C with 7.25 g of homoveratrylamine in 40 ml of tetrahydrofuran. The suspension is left to stand at 3° C for 48 hours, then evaporated, treated with water and extracted with ether/methylene chloride (3:1). The ethereal extracts are washed with water, sodium bicarbonate solution, 1-N tartaric acid and water. The organic phase is dried over magnesium sulphate and evaporated. The residue is crystallized from methylene chloride/ether at 0° C. There is obtained N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-2-propionamide of melting point 135°-136° C.

reactant | 2-(3,4-dimethoxyphenyl)-m-dithiane-2-proprionic acid | 13.2 g | COC=1C=C(C=CC1OC)C1(SCCCS1)CCC(=O)O | C15H20O4S2
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid isobutyl ester | 5.44 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | homoveratrylamine | 7.25 g | C(CC1=CC(OC)=C(OC)C=C1)N | C10H15NO2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-2-propionamide | COC=1C=C(CCNC(CCC2(SCCCS2)C2=CC(=C(C=C2)OC)OC)=O)C=CC1OC | C25H33NO5S2
